US07608629B2
2-chloro-4-fluoro-N-[3-(3-methyl-piperidin-4-yloxy)-phenyl]-benzamide monohydrogen chloride salt cis isomer 1
Combine N-[3-(1-benzyl-3-methyl-piperidin-4-yloxy)-phenyl]-2-chloro-4-fluoro-benzamide cis isomer 1 (preparation 80, 0.52 g, 1.15 mmol), 1,2-dichloroethane (20 mL) and 1-chloroethyl chloroformate (1.24 mL, 11.5 mmol), stir and heat at reflux. After 2 hr., cool to ambient temperature and concentrate. Dissolve the residue in methanol (20 mL), stir and heat at reflux. After 1.5 hr., cool to ambient temperature. Load reaction mixture on an SCX column (10 g), wash with methanol, elute with 2M ammonia/methanol. Concentrate eluent. Purify residue by silica gel flash chromatography eluting with 10% (2M NH3/methanol)/methylene dichloride and converted to the mono hydrogen chloride salt to obtain the title compound (0.139 g, 33%). Mass spectrum: obs. m/z 363.1292; calc. m/z 363.1275; Analysis calculated for C19H21Cl2FN2O2.0.35H2O: C, 56.39; H, 5.38; N, 6.92. Found: C, 56.43; H, 5.48; N, 6.73.

reactant | N-[3-(1-benzyl-3-methyl-piperidin-4-yloxy)-phenyl]-2-chloro-4-fluoro-benzamide | C(C1=CC=CC=C1)N1CC(C(CC1)OC=1C=C(C=CC1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C26H26ClFN2O2
reactant | 1-chloroethyl chloroformate | 11.5 mmol, 1.24 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 2-chloro-4-fluoro-N-[3-(3-methyl-piperidin-4-yloxy)-phenyl]-benzamide monohydrogen chloride salt | 0.139 g, 33% | Cl.ClC1=C(C(=O)NC2=CC(=CC=C2)OC2C(CNCC2)C)C=CC(=C1)F | InChI=1S/C19H20ClFN2O2.ClH/c1-12-11-22-8-7-18(12)25-15-4-2-3-14(10-15)23-19(24)16-6-5-13(21)9-17(16)20;/h2-6,9-10,12,18,22H,7-8,11H2,1H3,(H,23,24);1H
